US07534797B2
7-Cyclobutyl-5-(2-phenyl-quinolin-7-yl)-imidazo[5,1-f][1,2,4]triazin-4-ylamine
A flask was charged with 7-cyclobutyl-5-iodo-imidazo[5,1-f][1,2,4]triazin-4-ylamine (30 mg, 0.095 mmol), 2-phenyl-7-(4,4,5,5-tetramethyl-[2,3,2]dioxaborolan-2-yl)-quinoline (38 mg, 0.110 mmol), and sodium carbonate (Na2CO3) (30 mg, 0.286 mmol) was evacuated and charged with nitrogen (N2) (3×). To this mixture was quickly added tetrakis(triphenylphosphine)palladium(0) and evacuated and charged with N2 (2×). This mixture was charged with a previously degassed solvent DME/H2O (5:1) (2 mL) and heated overnight at 75° C. The reaction mixture was filtered through an autovial (0.45 μM frit) and washed with MeOH (3×). The filtrate was concentrated in vacuo and purified by mass directed purification (MDP) resulting in the title compound as a pale yellow solid; 1H NMR (CDCl3, 400 MHz) δ 1.96-2.10 (m, 1H), 2.10-2.25 (m, 1H); 2.40-2.56 (m, 2H); 2.60-2.78 (m, 2H); 4.12-4.29 (m, 1H); 5.99 (brs, 2H); 7.42-7.58 (m, 3H); 7.84-8.05 (m, 4H); 8.18 (d, J=7.2 Hz, 2H); 8.28 (d, J=8.4 Hz, 1H); 8.39 (s, 1H); MS (ES+): m/z 393.14 (100) [MH+], HPLC: tR=3.51 min (MicromassZQ, polar—5 min).

reactant | 7-cyclobutyl-5-iodo-imidazo[5,1-f][1,2,4]triazin-4-ylamine | 0.095 mmol, 30 mg | C1(CCC1)C1=NC(=C2C(=NC=NN21)N)I | C9H10IN5
reactant | 2-phenyl-7-(4,4,5,5-tetramethyl-[2,3,2]dioxaborolan-2-yl)-quinoline | 0.110 mmol, 38 mg | C1(=CC=CC=C1)C1=NC2=CC(=CC=C2C=C1)B1CC(C(O1)(C)C)(C)C | C22H24BNO
reactant | sodium carbonate | 0.286 mmol, 30 mg | C([O-])([O-])=O.[Na+].[Na+]
product | 7-Cyclobutyl-5-(2-phenyl-quinolin-7-yl)-imidazo[5,1-f][1,2,4]triazin-4-ylamine | C1(CCC1)C1=NC(=C2C(=NC=NN21)N)C2=CC=C1C=CC(=NC1=C2)C2=CC=CC=C2 | C24H20N6
